US05583233
G. (2S,3S,5S)-5-(N-(N-((N-Methyl-N-((2-isopropyl-4-oxazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-oxazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane
Using the procedure of Example 1U but replacing (2S,3S,5S)-5-amino-2-(N-((5-thiazolyl)-methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane with (2S,3S,5S)-5-amino-2-(N-((5-oxazolyl)-methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane and replacing N-((N-methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine with N-((N-methyl-N-((2-isopropyl-4-oxazolyl)methyl)amino)carbonyl)-L-valine provided, after silica gel chromatography using a gradient of 1%-4% methanol in dichloromethane, 145 mg (80%) of the desired compound. 1H NMR (CDCl3) δ 0.74 (d, J=6.9 Hz, 6H), 1.23 (d, J=6.9 Hz, 6H), 1.39-1.50 (m, 2H), 1.80-1.94 (m, 1H), 2.56-2.74 (m, 4H), 2.83 (s, 3H), 2.94-3.09 (m, 1H), 3.52-3.62 (m, 1H), 3.72-3.84 (m, 1H), 3.88-3.92 (m, 1H), 4.08-4.35 (m, 3H), 4.62 (d, J=6Hz, 1H), 4.94 (s, 2H), 5.91 (d, J=8.4 Hz, 1H), 6.89 (d, J=9 Hz, 1H), 7.06-7.26 (m, 11H), 7.69 (d, J=9 Hz, 1H), 7.77 (s, 1H), 8.35 (s, 1H). Mass spectrum: (M+NH4)+ =706; (M+H)+ =689. Anal. Calcd for C37H48N6O7.0.5 H2O: C, 63.68; H, 7.08; N, 12.04. Found: C, 63.50; H, 7.13; N, 11.60.

reactant | (2S,3S,5S)-5-amino-2-(N-((5-oxazolyl)-methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CO1)O)CC1=CC=CC=C1 | C23H27N3O4
reactant | N-((N-methyl-N-((2-isopropyl-4-oxazolyl)methyl)amino)carbonyl)-L-valine | CN(CC=1N=C(OC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)O | C14H23N3O4
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S,3S,5S)-5-(N-(N-((N-Methyl-N-((2-isopropyl-4-oxazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-oxazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | 145 mg, 80% | CN(CC=1N=C(OC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CO1)O)CC1=CC=CC=C1 | C37H48N6O7
